US05741926
(2-Bromoacetyl)amino benzene
Aniline (19.4 g, 0.043 mol) was dissolved in the mixture of DMF (25 mL) and dioxane (25 mL). The solution was cooled to +5° C. and bromoacetyl bromide (3.8 mL=8.7 g, 100 mol %) was added dropwise over 30 min. The reaction mixture was warmed to room temperature and stirred for 7 h. The mixture was poured into ice-water, and the white crystalline compound which precipitated was filtered, washed several times with cold water, and then air dried for 24 h, giving 6.2 g (68%) of title compound: 1H NMR (CDCl3) δ8.20 (bs, 1H), 7.54 (dd, J=8.8, J=1.2, 2H), 7.37 (t, J=7.2, 1H), 7.18 (t, J=8, 1H), 4.03 (s, 2H): 13C NMR (CDCl3) δ163.35, 136.88, 129.21, 129.18, 129.11, 125.21, 120.03, 29.47; MS (El, m/z) 213 (M+).

reactant | Aniline | 0.043 mol, 19.4 g | NC1=CC=CC=C1 | C6H7N
reactant | bromoacetyl bromide | 3.8 mL, 8.7 g | BrCC(=O)Br | C2H2Br2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | (2-Bromoacetyl)amino benzene | 6.2 g, 68% | BrCC(=O)NC1=CC=CC=C1 | C8H8BrNO
